US04242507
N-Benzyloxycarbonyl-L-valine (1.26 g) and triethylamine (0.70 ml) are dissolved in ethyl acetate (10 ml). To the solution is added ethyl 2-methanesulfonyloxyimino-2-cyanoacetate (1.1 g) and the mixture is stirred at room temperature for 20 hours. The reaction mixture is washed with water, dried and then concentrated to give ethyl 2-(N-benzyloxycarbonyl-L-valyloxyimino)-2-cyanoacetate (1.8 g) as an oily substance.

reactant | N-Benzyloxycarbonyl-L-valine | 1.26 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | triethylamine | 0.70 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-methanesulfonyloxyimino-2-cyanoacetate | 1.1 g | CS(=O)(=O)ON=C(C(=O)OCC)C#N | C6H8N2O5S
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 2-(N-benzyloxycarbonyl-L-valyloxyimino)-2-cyanoacetate | 1.8 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)ON=C(C(=O)OCC)C#N | C18H21N3O6
